US04912231
D. (trans)-1-Benzoyl-4-phenyl-L-proline
A dry, 3-necked 21 Morton flask (equipped with overhead stirrer, nitrogen inlet, and temperature probe) was charged with anhydrous aluminum chloride (124.23 g, 0.93 mole) followed by thiophene free benzene (810 ml). While stirring, the flask was cooled (dry ice-acetone) to an internal temperature of 6° C. Part C compound (powdered) was added (81 g, 0.26 mole) in portions. A rise in internal temperature to 7° C. was noted after the addition of ca. half the solid. The addition was briefly interrupted until the internal temperature returned to 6° C. and was then continued. The resulting heterogeneous mixture was vigorously stirred for 4 hours at 7°-8° C. and 1.5 hours at 8°-10° C. During this time the reaction became almost totally homogeneous and TLC indicated the conversion of Part C compound to a mixture of the title compound and (trans)-1-benzoyl-4-chloro- L-proline. The reaction was cooled to 7° C., and the mixture was hydrolyzed by the slow addition of 3N HCl (990 ml) such that the internal temperature did not rise above 30° C. The hydrolyzed mixture was treated with brine (180 ml), seeded with crystals of title compound, stirred at room temperature for 45 minutes and then held at room temperature overnight. The mixture was filtered through a coarse frit and the solid remaining in the reaction vessel was transferred to the funnel using 1N HCl (390 ml). The crude product was washed with water (4×500 ml). The last filtrate gave a weakly positive test for chloride (ethanolic silver nitrate). After drying on the filter for ca. 20 minutes the product weighed 122 g (159 mole %). The product was dried in vacuo to a weight of 98 g. The crude product was suspended in 240 ml of n-butyl acetate and heated to boiling. When the product dissolved, a second lower layer (presumably residual water) was evident. Boiling was continued until this layer disappeared. Sodium sulfate was added, boiling was continued an additional 5 minutes, and the mixture was filtered through celite (pre-washed with n-butyl acetate). The celite was washed with hot n-butyl acetate (2×ca. 50 ml). The filtrate volume was reduced to 240 ml, cooled, was seeded with crystals of title compound and stirred gently at ambient temperature overnight. The crystals were filtered and washed with n-butyl acetate (1×50 ml) and hexane (1×50 ml). The product was dried under high vacuum at 40° C. to a constant weight of 57.37 g (75.1 mole %; corrected for starting material and product HI). HPLC HI (λ218) of 99.03.

reactant | aluminum chloride | 0.93 mole, 124.23 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | (trans)-1-benzoyl-4-chloro- L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@H](C1)Cl | C12H12ClNO3
reactant | thiophene | 810 ml | S1C=CC=C1 | C4H4S
product | (trans)-1-Benzoyl-4-phenyl-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@H](C1)C1=CC=CC=C1 | C18H17NO3
